US09145415B2
To a solution of N-Boc-N-methyl-L-alanine (561 mg) in tetrahydrofuran (14 mL), isobutyl chloroformate (362 μL) and N-methylmorpholine (303 μL) were added under ice cooling, and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture, 3-benzyloxyaniline (500 mg) was added under ice cooling, and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture, water and ethyl acetate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 70% hexane in ethyl acetate) to obtain (S)-tert-butyl (1-((3-(benzyloxy)phenyl)amino)-1-oxopropan-2-yl)(methyl)carbamate (E15, 903 mg).

reactant | N-Boc-N-methyl-L-alanine | 561 mg | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | 3-benzyloxyaniline | 500 mg | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1 | C13H13NO
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
solvent | isobutyl chloroformate | 362 μL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | N-methylmorpholine | 303 μL | CN1CCOCC1 | C5H11NO
product | (S)-tert-butyl (1-((3-(benzyloxy)phenyl)amino)-1-oxopropan-2-yl)(methyl)carbamate | 903 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O | C22H28N2O4
